US06929747B2
A mixture of phloroglucinol (12.60 g, 0.10 mol), ethylene carbonate (35 g, 0.39 mol), and tetraethylammonium bromide (8 g, 0.04 mol) in DMF (20 ml,) was heated at 150° C. for 14 hr. After evaporating the solvent, the residue was purified on a silica gel chromatography column using a mixture of methylene chloride and acetonitrile: 1/1, 1/2, 1/3 and 1/4 as eluents to give 9.6 g of 1,3,5-tris(2-hydroxyethoxy)benzene (37% yield). The product was purified further by recrystallization from cold methylene chloride and THF to afford 5.5 g (21%). 1H NMR (DMSO-d6): δ 6.08 (s, aromatic protons, 3H), 4.83 (s, OH, 3H), 3.92 (t, —OCH2—, 6H), 3.69 (m, —CH2OH, 8H). 13C NMR (DMSO-d6): δ 160.54 (aromatic C—O—), 93.81 (aromatic C—H), 69.53 (—CH2O—), 59.55 (—CH2OH). FT-IR (KBr, m−1): 3255 (OH), 2947, 2371, 1596, 1462, 1377, 1167, 1071, 1024, 902, 745.

reactant | phloroglucinol | 0.10 mol, 12.60 g | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | ethylene carbonate | 0.39 mol, 35 g | C1(OCCO1)=O | C3H4O3
catalyst | tetraethylammonium bromide | 0.04 mol, 8 g | [Br-].C(C)[N+](CC)(CC)CC
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1,3,5-tris(2-hydroxyethoxy)benzene | 9.6 g, 37% yield | OCCOC1=CC(=CC(=C1)OCCO)OCCO | C12H18O6
